US05985872
To an ice cooled suspension of CDI (0.53 g, 3.27 mmol) in 5 mL of pyridine was added L-alanine t-butyl ester hydrochloride (0.57 g, 3.13 mmol). After stirring at 0° C. for 30 minutes, 2-amino-6-methylbenzoic acid (0.43 g, 2.85 mmol) was added. The ice bath was removed and the reaction was stirred at 65° C. for 2 hours. The reaction mixture was diluted with EtOAc and washed with 1N HCl, dried (MgSO4), filtered and evaporated under reduced pressure. The crude product (0.30 g) was dissolved in 5 mL of CH2Cl2. Triethylamine (0.15 g, 1.47 mmol) and EDC (0.28 g, 1.47 mmol) were added sequentially After stirring at room temperature for 2 hours the reaction mixture was diluted with EtOAc and washed with 1N HCl, dried (MgSO4), filtered and evaporated under reduced pressure. Silica gel chromatography of the residue (1:1 EtOAc/hexane) afforded 113 mg of N-(5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl)-L-alanine, t-butyl ester: Anal. Calc'd. for C16H20N2O4 : C, 63.14; H, 6.62; N, 9.21. Found: C, 62.90; H, 6.97; N, 9.11. 1H-NMR (300 MHz, CDCl3) δ 1.49 (s, 9H), 1.50 (d, J=7 Hz, 3H), 2.70 (s, 3H), 4.48 (pent, J=7 Hz, 1H), 5.68 (br. s, 1H, exchangeable), 6.95 (d, J=8 Hz, 1H), 6.99 (d, J=8 Hz, 1H), 7.45 (t, J=8 Hz, 1H).

reactant | CDI | 3.27 mmol, 0.53 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | L-alanine t-butyl ester hydrochloride | 3.13 mmol, 0.57 g | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
reactant | 2-amino-6-methylbenzoic acid | 2.85 mmol, 0.43 g | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | Triethylamine | 1.47 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
reactant | EDC | 1.47 mmol, 0.28 g
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl)-L-alanine, t-butyl ester | 113 mg | CC1=CC=CC2=C1C(OC(=N2)N[C@@H](C)C(=O)OC(C)(C)C)=O | C16H20N2O4
